US07687517B2
3-(6-Nitro-quinolin-2-yl)-3,9-diaza-bicyclo[3.3.1]nonane free base
A mixture of 3-(6-nitro-quinolin-2-yl)-3,9-diaza-bicyclo[3.3.1]nonane-9-carboxylic acid tert-butyl ester (0.6 g, 1.51 mmol), prepared by method A and trifluoroacetic acid (1.7 g, 15.1 mmol) was stirred for 10 min at room-temperature. Aqueous ammonia was added and the mixture was extracted with dichloromethane. The mixture was dried and evaporated followed by stirring in diethylether and filtration. Yield 320 mg (71%).

reactant | 3-(6-nitro-quinolin-2-yl)-3,9-diaza-bicyclo[3.3.1]nonane-9-carboxylic acid tert-butyl ester | 1.51 mmol, 0.6 g | C(C)(C)(C)OC(=O)N1C2CN(CC1CCC2)C2=NC1=CC=C(C=C1C=C2)[N+](=O)[O-] | C21H26N4O4
reactant | trifluoroacetic acid | 15.1 mmol, 1.7 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonia | N | H3N
product | 3-(6-Nitro-quinolin-2-yl)-3,9-diaza-bicyclo[3.3.1]nonane | [N+](=O)([O-])C=1C=C2C=CC(=NC2=CC1)N1CC2CCCC(C1)N2 | C16H18N4O2
